US04110457
The starting material is prepared as follows: The mixture of 4.6 g of dl-1-(4-benzyloxyphenyl)-2-(2,2-diphenylethylamino)-propane hydrochloride, 0.4 g of sodium hydroxide, 50 ml of ethanol and 0.5 g of 10% palladium on carbon is shaken under hydrogen at 3 atmospheres for 72 hours. The mixture is filtered and the filtrate evaporated, to afford the 1-(4-hydroxyphenyl)-2-(2,2-diphenylethylamino)-propane, which is used without further purification.

reactant | 1-(4-benzyloxyphenyl)-2-(2,2-diphenylethylamino)-propane hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(4-hydroxyphenyl)-2-(2,2-diphenylethylamino)-propane | OC1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25NO
